US04855445
Step (2) Preparation of 2-Iodo-3-fluoronitrobenzene
A mixture consisting of 2-fluoro-6-nitrophenyl trifluoromethanesulfonate (62.0 g, 0.215 mol), lithium iodide (60 g, 0.451 mol) and 1-methyl-2-pyrrolidinone (400 mL) was heated with stirring at 130°-132° C. (oil bath temperature) for 18 hours. Upon cooling it was poured into water (1200 mL) and extracted with diethyl ether. The combined extracts were washed with 1N NaOH, water and with brine. The solution was dried (MgSO4), filtered, and concentrated in vacuo to give 27.0 g of the title compound as a brown-colored solid title compound (m.p. 54°-57° C.).

reactant | 2-fluoro-6-nitrophenyl trifluoromethanesulfonate | 0.215 mol, 62.0 g | FC(S(=O)(=O)OC1=C(C=CC=C1[N+](=O)[O-])F)(F)F | C7H3F4NO5S
reactant | lithium iodide | 0.451 mol, 60 g | [I-].[Li+]
reactant | 1-methyl-2-pyrrolidinone | 400 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 1200 mL | O | H2O
product | 2-Iodo-3-fluoronitrobenzene | 27.0 g | IC1=C(C=CC=C1F)[N+](=O)[O-] | C6H3FINO2
